* 74377 model
 
.subckt 74377 nE Q0 D0 D1 Q1 Q2 D2 D3 Q3 GND CP Q4 D4 D5 Q5 Q6 D6 D7 Q7 VCC

*necessary for proper output calculations
Ro0  Q0 GND 1G
Ro1  Q1 GND 1G
Ro2  Q2 GND 1G
Ro3  Q3 GND 1G
Ro4  Q4 GND 1G
Ro5  Q5 GND 1G
Ro6  Q6 GND 1G
Ro7  Q7 GND 1G

*input inversions
ai0 nE E inv

*DFF0 input
ad00 [ E  D0 ] s00  and
ad01 [nE  Q0 ] s01  and

ad02 [s00 s01] in0  or

*DFF1 input
ad10 [ E  D1 ] s10  and
ad11 [nE  Q1 ] s11  and

ad12 [s10 s11] in1  or

*DFF2 input
ad20 [ E  D2 ] s20  and
ad21 [nE  Q2 ] s21  and

ad22 [s20 s21] in2  or

*DFF3 input
ad30 [ E  D3 ] s30  and
ad31 [nE  Q3 ] s31  and

ad32 [s30 s31] in3  or

*DFF4 input
ad40 [ E  D4 ] s40  and
ad41 [nE  Q4 ] s41  and

ad42 [s40 s41] in4  or

*DFF5 input
ad50 [ E  D5 ] s50  and
ad51 [nE  Q5 ] s51  and

ad52 [s50 s51] in5  or

*DFF6 input
ad60 [ E  D6 ] s60  and
ad61 [nE  Q6 ] s61  and

ad62 [s60 s61] in6  or

*DFF7 input
ad70 [ E  D7 ] s70  and
ad71 [nE  Q7 ] s71  and

ad72 [s70 s71] in7  or

*    d   c  as  ar  q  nq
adf0 in0 CP GND GND Q0 null dff
adf1 in1 CP GND GND Q1 null dff
adf2 in2 CP GND GND Q2 null dff
adf3 in3 CP GND GND Q3 null dff
adf4 in4 CP GND GND Q4 null dff
adf5 in5 CP GND GND Q5 null dff
adf6 in6 CP GND GND Q6 null dff
adf7 in7 CP GND GND Q7 null dff

.model and  d_and       (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model or   d_or        (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model inv  d_inverter  (rise_delay=1.0e-12 fall_delay=2.0e-12
+                        input_load=1.0e-12)

.model dff  d_dff       (clk_delay = 13.0e-9 set_delay = 25.0e-9
+                        reset_delay = 27.0e-9 ic = 2 rise_delay = 10.0e-9
+                        fall_delay = 3e-9)


.ends
